US06933387B2
(10aR)-2-(9-Bromo-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indol-2-yl)-acetamide
The title compound, MS: m/e=310.1 (M+H+) was prepared in accordance with the general method of example 6 from (10aR)-9-bromo-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole and 2-bromoacetamide.

reactant | (10aR)-9-bromo-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole | BrC=1C=2C[C@H]3N(C2C=CC1)CCNC3 | C11H13BrN2
reactant | 2-bromoacetamide | BrCC(=O)N | C2H4BrNO
product | (10aR)-2-(9-Bromo-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indol-2-yl)-acetamide | BrC=1C=2C[C@H]3N(C2C=CC1)CCN(C3)CC(=O)N | C13H16BrN3O
